US05175177
a) 2,4-Dimethoxy-3-methylbenzaldehyde Oxime
A mixture of 25.1 g 2,4-dimethoxybenzaldehyde, 19.46 g hydroxylamine hydrochloride and 22 mls pyridine in 150 mls ethyl alcohol was heated at reflux with stirring for two hours, allowed to cool, and concentrated in vacuo. The residue was treated with water and stirring and the resulting white solid was collected by filtration to give 26.8 g of the title compound, m.p. 110°-111° C.

reactant | 2,4-dimethoxybenzaldehyde | 25.1 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | hydroxylamine hydrochloride | 19.46 g | Cl.NO
reactant | pyridine | 22 mls | N1=CC=CC=C1 | C5H5N
solvent | ethyl alcohol | 150 mls | C(C)O | C2H6O
product | 2,4-Dimethoxy-3-methylbenzaldehyde Oxime | 26.8 g | COC1=C(C=NO)C=CC(=C1C)OC | C10H13NO3
